US07432391B2
2-Bromoethylamine hydrobromide (5 g) was dissolved in 87.4 ml of acetonitrile and 3.6 ml of triethylamine and 5.0 g of di-tert-butyl dicarbonate were added thereto. The reaction solution was stirred for 12 hours at 20 to 25° C. in a nitrogen stream, then 70 ml of a saturated aqueous solution of sodium bicarbonate was added thereto and the mixture was extracted with 100 ml of ether. The ether layer was separated, dried over Glauber's salt and concentrated using an evaporator to give 4.8 g (apparent yield: 94%) of tert-butyl N-(2-bromoethyl)carbamate as an oily substance (incidentally, the yield calculated on the basis of purity by NMR was 82%).

reactant | 2-Bromoethylamine hydrobromide | 5 g | Br.BrCCN
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 87.4 ml | C(C)#N | C2H3N
product | tert-butyl N-(2-bromoethyl)carbamate | 4.8 g, yield: 94% | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
